US06444833B1
Synthesis of Ethyl[2Z]-2-methyl-3-[1-phenylpyrrol-2-yl]prop-2-enoate
Triethyl 2-phosphonopropionate (0.714 mol, 153 ml) was dissolved in THF (75 ml) and added slowly to NaH (1.0 mol, 24.3 g) in THF (60 ml) at 0° C. The mixture was slowly warmed to room temperature and stirring was continued for 1 h after gas evolution had ceased. The temperature was lowered to −10° C. and a solution of the above described 1-Phenylpyrrole-2-carbaldehyde (0.665 mol, 113.0 g) in 200 ml of THF was added dropwise. The flask and contents were warmed to room temperature over a 30 minute period resulting in a thick precipitate which decoupled the magnetic stirrer. A saturated solution of NH4Cl (100 ml) was added cautiously dissolving the precipitate to give a two phase solution. After evaporating the THF, the crude product was extracted with ether (2×200 ml). The extract was washed with brine solution, dried over MgSO4, and solvents were removed on a rotoevaporator. Yield: 178 g of product as a white solid (98%). The title compound was analysed by 1H-NMR and 13C-NMR spectroscopy.

reactant | Triethyl 2-phosphonopropionate | 0.714 mol, 153 ml | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | NaH | 1.0 mol, 24.3 g | [H-].[Na+]
reactant | 1-Phenylpyrrole-2-carbaldehyde | 0.665 mol, 113.0 g | C1(=CC=CC=C1)N1C(=CC=C1)C=O | C11H9NO
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Ethyl[2Z]-2-methyl-3-[1-phenylpyrrol-2-yl]prop-2-enoate | C/C(/C(=O)OCC)=C/C=1N(C=CC1)C1=CC=CC=C1 | C16H17NO2
